US04624949
6H-dibenzo[b,d]thiopyran-6-carboxylic acid (3.4 g; 0.014 mol) was suspended in thionyl chloride (30 ml) and after 20 hours at room temperature the solution was evaporated in vacuo. The crude residue was dissolved in 80 ml of benzene and the obtained solution was added dropwise, at room temperature, to a solution of 2-dimethylaminoethanol (42 ml; 0.042 mol) in 80 ml of benzene. After half an hour the solution was washed with water and dried over sodium sulfate and concentrated to dryness. 6H-dibenzo[b,d]thiopyran-6-carboxylic acid, 2-dimethylamino-ethyl ester was obtained as oil; (3.0 g; yield 70%); NMR (CDCl3) δ ppm: 2.12 (s) (6H,CH3), 2.37 (t) (2H, --CH2NMe2), 4.07 (t) (2H, COOCH2), 4.59 (s) (1H,C-6 proton), 7.1-7.5 (m) (6H; C-2, C-3, C-4, C-7, C-8 and C-9 phenyl protons), 7.78 (m) (2H; C-1 and C-10 phenyl protons). By proceeding analogously the following compounds were obtained:

reactant | 6H-dibenzo[b,d]thiopyran-6-carboxylic acid | 0.014 mol, 3.4 g | C1=CC=CC=2SC(C3=C(C21)C=CC=C3)C(=O)O | C14H10O2S
reactant | 2-dimethylaminoethanol | 0.042 mol, 42 ml | CN(CCO)C | C4H11NO
solvent | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 6H-dibenzo[b,d]thiopyran-6-carboxylic acid, 2-dimethylamino-ethyl ester | yield 70% | C1=CC=CC=2SC(C3=C(C21)C=CC=C3)C(=O)OCCN(C)C | C18H19NO2S
